US08227500B2
3-Benzyloxy-1-benzyloxymethyl-1H-pyrazole-4-carboxylic acid ethyl ester
A suspension of 3-benzyloxy-1H-pyrazole-4-carboxylic acid ethyl ester (0.74 g), benzylchloromethylether (0.56 g) and N,N-diisopropylethylamine (0.78 g) in N,N-dimethylformamide (15 mL) was stirred at 90° C. for 20 hours. To this reaction mixture was added 2 mol/L hydrochloric acid under ice cooling, and this mixture was extracted with ethyl acetate. This organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on aminopropyl silica gel (eluent: ethyl acetate/n-hexane) to give the title compound (0.65 g).

reactant | 3-benzyloxy-1H-pyrazole-4-carboxylic acid ethyl ester | 0.74 g | C(C)OC(=O)C=1C(=NNC1)OCC1=CC=CC=C1 | C13H14N2O3
reactant | benzylchloromethylether | 0.56 g | C(C1=CC=CC=C1)C(Cl)OC(CC1=CC=CC=C1)Cl | C16H16Cl2O
reactant | N,N-diisopropylethylamine | 0.78 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
reactant | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 3-Benzyloxy-1-benzyloxymethyl-1H-pyrazole-4-carboxylic acid ethyl ester | 0.65 g | C(C)OC(=O)C=1C(=NN(C1)COCC1=CC=CC=C1)OCC1=CC=CC=C1 | C21H22N2O4
